US07705003B2
Trans-1-{4-[2-[4-(indan-4-yl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3,3-dimethyl-urea
0.4 g (1 mmol) trans-4-{2-[4-(indan-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine dihydrochloride was suspended in dichloromethane (30 ml), triethylamine (0.56 ml, 4 mmol) was added followed by 0.12 ml (1.3 mmol) N,N-dimethylcarbamoylchloride. The reaction mixture was stirred for 24 hours at room temperature. The solution was extracted with water (2×8 ml), dried and evaporated in vacuo. The residue was purified using flash chromatography giving the title compound (0.2 g, 50%), melting at 150-2° C.

reactant | trans-4-{2-[4-(indan-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine dihydrochloride | 1 mmol, 0.4 g | Cl.Cl.C1CCC2=C(C=CC=C12)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N
reactant | triethylamine | 4 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoylchloride | 1.3 mmol, 0.12 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Trans-1-{4-[2-[4-(indan-4-yl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3,3-dimethyl-urea | 0.2 g, 50% | C1CCC2=C(C=CC=C12)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)N(C)C | C24H38N4O
